US06521754B2
[7-(2-Amino-1H-imidazol-4-yl)-4-methoxy-benzothiazol-2-yl]-carbamic acid methyll ester
0.04 g of [7-(2-tert-butoxycarbonylamino-1H-imidazol-4-yl)-4-methoxy-benzothiazol-2-yl]-carbamic acid methyll ester (0.0001 Mol) were heated to 60° C. in HCl/MeOH (2.5 M, 2 ml). After evaporation of the solvent the residue was dissolved in water (5 ml) and the pH was adjusted to 8 with sat. NaHCO3. The water was evaporated and the residue triturated in ethyl acetate where a precipitation formed. This was isolated and dried to yield the title compound as a grey solid (16%); F.p.: 225-235° C.

reactant | [7-(2-tert-butoxycarbonylamino-1H-imidazol-4-yl)-4-methoxy-benzothiazol-2-yl]-carbamic acid | 0.0001 Mol, 0.04 g | C(C)(C)(C)OC(=O)NC=1NC=C(N1)C1=CC=C(C=2N=C(SC21)NC(O)=O)OC | C17H19N5O5S
solvent | HCl MeOH | 2.5 M, 2 ml | Cl.CO
product | [7-(2-Amino-1H-imidazol-4-yl)-4-methoxy-benzothiazol-2-yl]-carbamic acid | 16% | NC=1NC=C(N1)C1=CC=C(C=2N=C(SC21)NC(O)=O)OC | C12H11N5O3S
